US07786108B2
Step 3. Preparation of (S)-(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-(2,3,4,5,7,8,9,10-octahydro-1H-naphtho[2,3-b]azepin-5-yl)-amine
To a solution of (S)-5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2,3,4,5,7,8,9,10-octahydro-naphtho[2,3-b]azepine-1-carboxylic acid tert-butyl ester (0.67 mmol) in dichloromethane (18 mL) add trifluoroacetic acid (2 mL). After stirring at room temperature for 1 h, quench with concentrated sodium carbonate (10 mL) and dilute with dichloromethane (20 mL) and water (20 mL). Separate the organic phase and wash the aqueous with dichloromethane (2×10 mL). Dry the combined organics over sodium sulfate, filter, and remove solvent under vacuum. Chromatograph the product over silica gel eluting with ethyl acetate/hexane (5-30%) to afford the title compound as a colorless foam. MS (ES+): 525 (M+H).

reactant | (S)-5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2,3,4,5,7,8,9,10-octahydro-naphtho[2,3-b]azepine-1-carboxylic acid tert-butyl ester | 0.67 mmol | C(C)(C)(C)OC(=O)N1C2=C([C@H](CCC1)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C1CCCCC1=C2 | C30H34F6N6O2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
product | (S)-(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-(2,3,4,5,7,8,9,10-octahydro-1H-naphtho[2,3-b]azepin-5-yl)-amine | FC(C=1C=C(CN([C@@H]2C3=C(NCCC2)C=C2CCCCC2=C3)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C25H26F6N6
